US06172085B2
2,3-Dihydro-2-(iodomethyl)-2,4,6,7-tetramethyl-5-benzofuranamine
To a solution of N-[2,3-dihydro-2-(iodomethyl)-2,4,6,7-tetramethylbenzofuran-5-yl]formamide (6.5 g) in methanol (40 mL) was added conc. hydrochloric acid (10 mL). The mixture was refluxed for 1.5 hours under nitrogen atmosphere, and poured into a suspension of sodium bicarbonate (12 g) in water and ethyl acetate The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and saturated aqueous sodium chloride, dried over magnesium sulfate, treated with activated carbon, filtrated and evaporated in vacuo. The residue was crystallized from hexane to afford 5.5 g of the title compound. Yield 91%.

reactant | N-[2,3-dihydro-2-(iodomethyl)-2,4,6,7-tetramethylbenzofuran-5-yl]formamide | 6.5 g | ICC1(OC2=C(C1)C(=C(C(=C2C)C)NC=O)C)C | C14H18INO2
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | sodium bicarbonate | 12 g | C([O-])(O)=O.[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dihydro-2-(iodomethyl)-2,4,6,7-tetramethyl-5-benzofuranamine | 5.5 g, Yield 91% | ICC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18INO
